US04483982
Methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide (I; Y=OCH3)
In a manner similar to Examples 15 and 16, to a solution of 2.86 g. (50 mmoles) of N-methylsaccharin and 10.8 ml. (100 mmoles) of methyl chloroacetate in 17 ml. of dimethylsulfoxide was added 11.56 g. (170 mmoles) of sodium ethoxide in 63 ml. of dimethylsulfoxide over a period of 2.5 hours.

reactant | N-methylsaccharin | 50 mmoles | CN1S(=O)(=O)C2=CC=CC=C2C1=O | C8H7NO3S
reactant | methyl chloroacetate | 100 mmoles | ClCC(=O)OC | C3H5ClO2
reactant | sodium ethoxide | 170 mmoles | [O-]CC.[Na+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | Methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)OC | C11H11NO5S
